### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Triangulated/TStructure): extensions of truncations to the extended integers

### PR DESCRIPTION
**Pull request by joelriou**
Given a `t`-structure, we extend the definition of the truncation functors `truncLT` and `truncGE` for indices in `ℤ` to `EInt`, as `t.eTruncLT : EInt ⥤ C ⥤ C` and `t.eTruncGE : EInt ⥤ C ⥤ C`.

---

- [x] depends on: #35364
- [x] depends on: #35363
- [x] depends on: #35362

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean [hunk 1]
```diff
@@ -0,0 +1,300 @@
...
+variable (t : TStructure C)
+
+/-- The functor `EInt ⥤ C ⥤ C` which sends `⊥` to the zero functor,
+`n : ℤ` to `t.truncLT n` and `⊤` to `𝟭 C`. -/
+noncomputable def eTruncLT : EInt ⥤ C ⥤ C where
+  obj n := by
+    induction n using WithBotTop.rec with
+    | bot => exact 0
+    | coe a => exact t.truncLT a
+    | top => exact 𝟭 C
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean]:
```suggestion
  obj n := WithBotTop.rec 0 (t.truncLT ·) (𝟭 C) n
```
Purely stylistic, but this is also an option that avoids the `by induction`.

File: Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean [hunk 2]
```diff
@@ -0,0 +1,300 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+instance (i : EInt) : (t.eTruncGE.obj i).Additive := by
+  induction i using WithBotTop.rec <;> constructor <;> cat_disch
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The connecting homomorphism from `t.eTruncGE` to the
+shift by `1` of `t.eTruncLT`. -/
+noncomputable def eTruncGEδLT :
+    t.eTruncGE ⟶ t.eTruncLT ⋙ ((Functor.whiskeringRight C C C).obj (shiftFunctor C (1 : ℤ))) where
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean]:
```suggestion
    t.eTruncGE ⟶ t.eTruncLT ⋙ ((Functor.whiskeringRight ..).obj (shiftFunctor C (1 : ℤ))) where
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean [hunk 3]
```diff
@@ -0,0 +1,300 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+@[reassoc]
+lemma eTruncLT_obj_map_eTruncLTι_app (i : EInt) (X : C) :
+    (t.eTruncLT.obj i).map ((t.eTruncLTι i).app X) =
+    (t.eTruncLTι i).app ((t.eTruncLT.obj i).obj X) := by
+  induction i using WithBotTop.rec with
+  | bot => simp
+  | coe n => simp [truncLT_map_truncLTι_app]
+  | top => simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean]:
```suggestion
  induction i using WithBotTop.rec with simp [truncLT_map_truncLTι_app]
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean [hunk 4]
```diff
@@ -0,0 +1,300 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+@[reassoc]
+lemma eTruncGE_obj_map_eTruncGEπ_app (i : EInt) (X : C) :
+    (t.eTruncGE.obj i).map ((t.eTruncGEπ i).app X) =
+    (t.eTruncGEπ i).app ((t.eTruncGE.obj i).obj X) := by
+  induction i using WithBotTop.rec with
+  | bot => simp
+  | coe n => simp [truncGE_map_truncGEπ_app]
+  | top => simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean]:
```suggestion
  induction i using WithBotTop.rec with simp [truncGE_map_truncGEπ_app]
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean [hunk 5]
```diff
@@ -0,0 +1,300 @@
...
+set_option backward.isDefEq.respectTransparency false in
+/-- The connecting homomorphism from `t.eTruncGE` to the
+shift by `1` of `t.eTruncLT`. -/
+noncomputable def eTruncGEδLT :
+    t.eTruncGE ⟶ t.eTruncLT ⋙ ((Functor.whiskeringRight C C C).obj (shiftFunctor C (1 : ℤ))) where
+  app a := by
+    induction a using WithBotTop.rec with
+    | bot => exact 0
+    | coe a => exact t.truncGEδLT a
+    | top => exact 0
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean]:
```suggestion
  app a := WithBotTop.rec 0 (t.truncGEδLT ·) 0 a
```

File: Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean [hunk 6]
```diff
@@ -0,0 +1,282 @@
...
+      | top => exact 𝟙 _
+  map_id n := by induction n using WithBotTop.rec <;> simp
+  map_comp {x y z} f g := by
+    have f' := leOfHom f
+    have g' := leOfHom g
+    induction x using WithBotTop.rec <;> induction y using WithBotTop.rec <;>
+      induction z using WithBotTop.rec <;> cat_disch
+
+@[simp]
+lemma eTruncLT_obj_top : t.eTruncLT.obj ⊤ = 𝟭 _ :=rfl
```
Comment (mattrobball) [inline Mathlib/CategoryTheory/Triangulated/TStructure/ETrunc.lean]:
```suggestion
lemma eTruncLT_obj_top : t.eTruncLT.obj ⊤ = 𝟭 _ := rfl
```
